US08729105B2
Preparation of 5-trifluoromethyl-isoxazol-3-methanamine hydrochloride
To a solution of (5-(trifluoromethyl)isoxazol-3-yl)methanamine in 25 ml ethanol was added under cooling 5.12 mL 4M−HCl solution in dioxane over a period of 10 min. The ice-bath was removed and 25 ml diethyl ether was added drop by drop. Precipitation. Filtered off and washed with diethyl ether 83×5 mL). Dried in vacuo at 40° C. to yield 2.65 g of the title compound as a white solid. MS (EI): 166 (M+H)+.

reactant | (5-(trifluoromethyl)isoxazol-3-yl)methanamine | FC(C1=CC(=NO1)CN)(F)F | C5H5F3N2O
reactant | HCl | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-trifluoromethyl-isoxazol-3-methanamine hydrochloride | 2.65 g | Cl.FC(C1=CC(=NO1)CN)(F)F | InChI=1S/C5H5F3N2O.ClH/c6-5(7,8)4-1-3(2-9)10-11-4;/h1H,2,9H2;1H
